US04307116
A solution of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetamido]-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]-oct-2-ene (syn isomer, E-form) (5.93 g) in a mixture of pure formic acid (80 cc) and water (25 cc) is heated at 50° C. for 30 minutes. The mixture is then cooled to 20° C., filtered and concentrated to dryness at 30° C. under 20 mm Hg (2.7 kPa). The residue is taken up in acetone (150 cc), the mixture is concentrated to dryness at 20° C. under 20 mm Hg (2.7 kPa), the operation is repeated twice more and the residue is then triturated in ether (75 cc) and filtered off. 7-[2-(2-Amino-thiazol-4-yl)-2-methoxyimino-acetamido]-2-carboxy-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (syn isomer, E-form) (3.4 g) is obtained in the form of a yellow powder.

reactant | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetamido]-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]-oct-2-ene | 5.93 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=COS(=O)(=O)C1=CC=C(C)C=C1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C54H45N5O8S3
reactant | formic acid | 80 cc | C(=O)O | CH2O2
solvent | water | 25 cc | O | H2O
product | 7-[2-(2-Amino-thiazol-4-yl)-2-methoxyimino-acetamido]-2-carboxy-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 3.4 g | NC=1SC=C(N1)C(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)C=COS(=O)(=O)C1=CC=C(C)C=C1)=NOC | C22H21N5O8S3
